US09260425B2
A mixture of 4-methyl-5-nitro-2,3′-bipyridine (215 g, 1 mol), Pd/C (10 g, 10%) and MeOH (1000 mL) was stirred at room temperature for 16 h under 10 atm of hydrogen. After reaction, the mixture was filtered. The filtrate was evaporated at reduced pressure to afford 4-methyl-2,3′-bipyridin-5-amine as a yellow solid (152 g, 82%)

reactant | 4-methyl-5-nitro-2,3′-bipyridine | 1 mol, 215 g | CC1=CC(=NC=C1[N+](=O)[O-])C=1C=NC=CC1 | C11H9N3O2
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | 10 g | [Pd] | Pd
solvent | MeOH | 1000 mL | CO | CH4O
product | 4-methyl-2,3′-bipyridin-5-amine | 152 g, 82% | CC1=CC(=NC=C1N)C=1C=NC=CC1 | C11H11N3
